US04054741
Sodium hydride (4.2 g) is suspended in dimethylformamide (50 ml) and while stirring the mixture at room temperature, a solution of 3,5-cyclohexanedione (11.2 g) in dimethylformamide (50 ml) is added over a period of 10 minutes. Several minutes later the mixture is cooled to -10° C., and a solution of methyl 7-bromo-5-heptynoate, described in Example 12, in dimethylformamide (50 ml) is added. The reaction mixture is stirred overnight at -10° to -5° C., then ether is added. The mixture is extracted with sodium carbonate. The aqueous extract after acidification with 10% HCl is extracted with ethyl acetate to yield a crude product, which on crystallization from ether affords 7-(2,6-dioxocyclohexyl)5-heptynoic acid methyl ester, m.p. 108° - 110° C, εmaxEtOH 256nm (ε = 14,200).

reactant | Sodium hydride | 4.2 g | [H-].[Na+]
reactant | 3,5-cyclohexanedione | 11.2 g | C1CC(CC(C1)=O)=O | C6H8O2
reactant | methyl 7-bromo-5-heptynoate | BrCC#CCCCC(=O)OC | C8H11BrO2
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-(2,6-dioxocyclohexyl)5-heptynoic acid methyl ester | COC(CCCC#CCC1C(CCCC1=O)=O)=O | C14H18O4
